US06642250B2
To a suspension of 6-methyl-2-(3-nitrophenylamino)-nicotinic acid (15.06 g, 55.11 mmol) in acetone (220ml) was added triethylamine (6.13 g, 60.6 mmol) and chloroacetonitrile (4.58 g, 60.6 mmol), and the mixture was heated under reflux overnight. The reaction mixture was filtered to remove an insoluble. The filtrate was evaporated. The resultant residue was washed successively with 1N aqueous sodium hydroxide and water, and dried to give 6-methyl-2-(3-nitrophenylamino)nicotinic acid cyanomethyl ester (15.44 g, 90%).

reactant | 6-methyl-2-(3-nitrophenylamino)-nicotinic acid | 55.11 mmol, 15.06 g | CC1=NC(=C(C(=O)O)C=C1)NC1=CC(=CC=C1)[N+](=O)[O-] | C13H11N3O4
reactant | triethylamine | 60.6 mmol, 6.13 g | C(C)N(CC)CC | C6H15N
reactant | chloroacetonitrile | 60.6 mmol, 4.58 g | ClCC#N | C2H2ClN
solvent | acetone | 220ml | CC(=O)C | C3H6O
product | 6-methyl-2-(3-nitrophenylamino)nicotinic acid cyanomethyl ester | 15.44 g, 90% | C(#N)COC(C1=C(N=C(C=C1)C)NC1=CC(=CC=C1)[N+](=O)[O-])=O | C15H12N4O4
